US07642264B2
4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-[2,5′]bipyrimidinyl-2′-ylamine
The title compound was prepared from 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine (example E.83) (0.40 g, 1.14 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.303 g, 1.37 mmol) according to the general procedure VI. Obtained as a white solid (0.050 g, 10%). MS (ISP) 409.2 [(M+H)+]; mp 264° C.

reactant | 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine | 1.14 mmol, 0.40 g | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 1.37 mmol, 0.303 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-[2,5′]bipyrimidinyl-2′-ylamine | CC1=CC(=CC(=N1)C1=NC(=NC=C1)C=1C=NC(=NC1)N)C1=CC=C(C=C1)C(F)(F)F | C21H15F3N6
